
.SUBCKT DC_MOTOR  + - Velocity BEMF Torque

+PARAMS: LA=1.5M RA=.5 Ke=.05 KT=.05 JM=250U BM=.1M TL=0

LA + 1 {La} Rser={Ra}

R+ + 0 1G

R- - 0 1G

R1 1 0 1G

bv1 1   -  v=-Ke*I(bTORQUE)

bTORQUE Torque 0 V=Kt*I(bv1)-TL

LINERT Torque 0 {Jm} Rser={Bm}

bVELOCITY Velocity 0 V=-I(bTORQUE)

b2 BEMF 0 V=V(1,-)

.ENDS DC_MOTOR




.SUBCKT AC_MOTOR  A B C VELOCITY TORQUE RPM

+PARAMS: NP=2 J=.62 K=.97 LS=29.4M LR=29.7M RS=67M RR=32M

.PARAM LR2={LR*1.5}

.PARAM RR2={RR*1.5}

.PARAM LM={SQRT(LS*LR)*K}

.PARAM K0={LM/SQRT(LS*LR2)}

.PARAM S3={SQRT(3)}

RA A 2 {RS}

LA N 20 {LS} Rser=0 ic=0
vLA 20 2 0
LB N 40 {LS} Rser=0 ic=0

vLB 40 4 0
RB 4 B {RS}

LC N 60 {LS} Rser=0 ic=0

vLC 60 6 0
RC C 6 {RS}

KAX LA LX {K0}

KBX LB LX {-K0/2}

KBY LB LY {K0*S3/2}

KCX LC LX {-K0/2}

KCY LC LY {-K0*S3/2}

LY 8 90 {LR2} Rser=0 ic=0

vLY 90 9 0
EBY 9 0 VALUE = {-NP*V(VELOCITY)*(3/2*LM*I(vLA)+LR2*I(vLX))}

RY 0 8 {RR2}

GBT 0 VELOCITY VALUE = {NP*S3/2*LM*((I(vLB)-I(vLC))*I(vLX)-S3*I(vLA)*I(vLY))}

CW VELOCITY 0 {J}

LX 11 120 {LR2} Rser=0 ic=0
vLX 120 12 0

EBX 12 0 VALUE = {NP*V(VELOCITY)*(LM*S3/2*(I(vLB)-I(vLC))+LR2*I(vLY))}

RX 0 11 {RR2}

EBM TORQUE 0 VALUE = {I(GBT)}

EBN RPM 0 VALUE = {V(VELOCITY)/2/3.14159265358979323846*60}

R3 0 VELOCITY 1E12

.ENDS AC_MOTOR



.Subckt Load_motorAC0 Velocity Load_On  params: F0=50

.FUNC TORQUE0(X) {0}
.PARAM W0={(2*PI*F0/2)}

.PARAM T0=60

.FUNC TORQUE1(X) {X}

.FUNC TORQUE2(X) {SGN(X)*X*X}

R Load_on on 1Meg

V on 0 1

G1 VELOCITY 0 VALUE = {T0*Torque0(V(VELOCITY)/W0)*v(Load_On)}

.ends Load_motorAC0


.Subckt Load_motorAC1 Velocity Load_On  params: F0=50

.FUNC TORQUE0(X) {0}

.PARAM W0={(2*PI*F0/2)}

.PARAM T0=60

.FUNC TORQUE1(X) {X}

.FUNC TORQUE2(X) {SGN(X)*X*X}

R Load_on on 1Meg

V on 0 1

G1 VELOCITY 0 VALUE = {T0*Torque1(V(VELOCITY)/W0)*v(Load_On)}

.ends Load_motorAC1


.Subckt Load_motorAC2 Velocity Load_On  params: F0=50

.FUNC TORQUE0(X) {0}


.PARAM W0={(2*PI*F0/2)}
 
.PARAM T0=60

.FUNC TORQUE1(X) {X}

.FUNC TORQUE2(X) {SGN(X)*X*X}

R Load_on on 1Meg

V on 0 1

G1 VELOCITY 0 VALUE = {T0*Torque2(V(VELOCITY)/W0)*v(Load_On)}

.ends Load_motorAC2

